US08455475B2
N—((R)-Quinuclidin-3-yl)-3-azaspiro[5.5]undecane-9-carboxamide hydrochloride (AMN-31)
Acetyl chloride (5 eq.) was added to an ice-cold solution of 9-((R)-quinuclidin-3-ylcarbamoyl)-3-azaspiro[5.5]undecane-3-carboxylate (0.271 mmol, 1 eq.) in ethanol. The reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue dissolved in acetone/ethanol (1:3, 3 ml) and diethyl ether (20 ml) was added. The white solid was filtered out, washed with diethyl ether and dried in vacuo. Yield: 86%

reactant | Acetyl chloride | 5 eq. | C(C)(=O)Cl | C2H3ClO
reactant | 9-((R)-quinuclidin-3-ylcarbamoyl)-3-azaspiro[5.5]undecane-3-carboxylate | 0.271 mmol, 1 eq. | N12C[C@@H](C(CC1)CC2)NC(=O)C2CCC1(CCN(CC1)C(=O)[O-])CC2
solvent | ethanol | C(C)O | C2H6O
product | N—((R)-Quinuclidin-3-yl)-3-azaspiro[5.5]undecane-9-carboxamide hydrochloride | Yield: 86% | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C2CCC1(CCNCC1)CC2 | InChI=1S/C18H31N3O.ClH/c22-17(20-16-13-21-11-3-14(16)4-12-21)15-1-5-18(6-2-15)7-9-19-10-8-18;/h14-16,19H,1-13H2,(H,20,22);1H/t16-;/m0./s1
